US04497954
To a stirred, cold (0° C.) solution of 1.72 g (0.01 mole) of 2-oxocyclopentanecarboxylic acid ethylene ketal in 35 ml of chloroform was added first 1.11 g (0.011 mole) of triethylamine and then 1.085 g (0.01 mole) of ethyl chloroformate, the latter being added in dropwise fashion. After stirring for 30 minutes, dry ammonia gas was bubbled in over about 5 minutes. A white solid separated while the mixture was stirred at about 0° C. for 30 minutes. The solid was separated by filtration and washed with chloroform, and the combined washings and filtrate were evaporated to provide a white solid residue of 2-oxocyclopentanecarboxamide ethylene ketal. Infrared spectral analysis showed the product to be identical to that obtained in Example 1.

reactant | 2-oxocyclopentanecarboxylic acid ethylene ketal | 0.01 mole, 1.72 g | C1COC(O)(C2C(CCC2)=O)O1 | C8H12O4
reactant | triethylamine | 0.011 mole, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.01 mole, 1.085 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-oxocyclopentanecarboxamide ethylene ketal | C1COC(N)(C2C(CCC2)=O)O1 | C8H13NO3
